US09102692B2
A predetermined amount of lithium aluminum hydride (167 mg, 4.42 mmol) was placed into a reaction container, and anhydrous tetrahydrofuran (THF) (15 ml) was added thereto, and this was cooled to 0° C. An anhydrous tetrahydrofuran (THF) solution (5 ml) of 1-benzenesulfonyl-1H-indole-6-carboxylic acid methyl ester (930 mg, 2.95 mmol) was added to the mixture. This was stirred at 0° C. for 30 minutes. An aqueous solution saturated with ammonium chloride (1 ml) was added to the mixture. After Celite filtration, the Celite was washed with dichloromethane. The filtrate was dried over anhydrous sodium sulfate. The desiccant was removed by filtration, and concentration was performed. Then, by concentration under reduced pressure, (1-benzenesulfonyl-1H-indol-6-yl)-methanol was obtained as an oily brown material (859 mg, 100%).

reactant | lithium aluminum hydride | 4.42 mmol, 167 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-benzenesulfonyl-1H-indole-6-carboxylic acid methyl ester | 2.95 mmol, 930 mg | COC(=O)C1=CC=C2C=CN(C2=C1)S(=O)(=O)C1=CC=CC=C1 | C16H13NO4S
reactant | ammonium chloride | 1 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | (1-benzenesulfonyl-1H-indol-6-yl)-methanol | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC=C(C=C12)CO | C15H13NO3S
